US08048862B2
A mixture of o-phenylenediamine (2.16 g, 20 mmol) and ethyl thiophene-2-glyoxylate (3.68 g, 20 mmol.) in anhydrous methanol (60 mL) was stirred at room temperature for 12 hours under nitrogen atmosphere. The precipitate formed during this time was collected and washed with methanol to give a crude yellow solid, which was recrystallized from ethanol to give pure 3(2-thienyl)quinoxalin-2(1 H)-one (3.2 g, 70%). 1 H NMR (400 MHz, DMSO-d6) δ 12.7 (s, 1 H), 8.39 (d, J=4.4 Hz, 1 H), 7.83 (d, J=5.2 Hz, 1 H), 7.77 (d, J=8.0 Hz, 1H), 7.50 (t, J=7.6 Hz, 1H), 7.35˜7.29 (m, 1 H), 7.22 (t, J=4.8 Hz, 1 H).

reactant | o-phenylenediamine | 20 mmol, 2.16 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ethyl thiophene-2-glyoxylate | 20 mmol, 3.68 g | S1C(=CC=C1)C(C(=O)OCC)=O | C8H8O3S
solvent | methanol | 60 mL | CO | CH4O
product | 3(2-thienyl)quinoxalin-2(1 H)-one | 3.2 g, 70% | S1C(=CC=C1)C=1C(NC2=CC=CC=C2N1)=O | C12H8N2OS
